Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / codeine / amitriptyline
 
Attending: ___
 
Chief Complaint:
Trauma:  fall:

lat/ant walls R maxillary sinus fracture 
right zygomatic arch fracture  
sphenoid  
right orbital fracture
right rib fractures ___  
displaced Right clavicle fracture 
right scapula fracture 
sternal fracture 
Compression def T12,indeterminate age  
left distal radius fracture 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female, s/p fall down 5 steps with head strike and 
unclear LOC
for unknown amount of time. Unable to recall why she fell. Per
report, she woke up in a pool of congealed blood at the bottom 
of
her steps and activated her Life Alert. She was brought to ___ where she was GCS ___, had a CT head revealing a SAH/IPH,
CT max/face demonstrated multiple facial fractures: nondisplaced
R inferior orbital and maxillary sinus fx w/o evidence of
entrapment or intraorbital hemorrhage. She was given clindamycin
and keppra at ___ and transferred to ___ for further
evaluation
 
Past Medical History:
 Lumbar Radiculopathy, NIDDM2, GERD, Polymyalgia rheumatica 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical Exam: ___: upon admission

Vitals: 98.2 102 ST 145/41 19 98%RA
GEN: A&O, NAD, GCS 15
HEENT: No scleral icterus, mucus membranes moist, bilateral
periorbital ecchymosis, no head lacerations, PERRL, EOMI, small 
R
subconjunctival hemorrhage
CV: rhythm sounds somewhat irregular ? frequent PACs vs. PVCs, 
no
rubs, normal S1/S2
PULM: Clear to auscultation b/l, No W/R/R, tenderness to
palpation over right chest wall and clavicle, no skin tenting,
ecchymosis over right chest wall
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses, mini laparotomy
scar
BACK: Nontender on exam, no stepoff deformities, however, while
examining back, patient was distracted by her right flank pain
Ext: UE: ecchymosis and pain with palpation of right elbow, 
edema
and ecchymosis L wrist, with notable reluctance to give thumbs 
up
with L thumb ___ to pain. ___ atraumatic, no significant edema,
warm and well perfused
CV: 2+ palpable radial and pedal pulses bilaterally

Physical examination upon discharge:  ___

vital signs:  98.1, 140/62, 72, 18, o2 sat 99%

General: ___ ecchymosis bil

CV:  irreg, ns1, s2
LUNGS:  crackles bases bil
ABDOMEN:  soft, non-tender
EXT:  no calf tenderness bil., + radial right, splint left
NEURO:  Scleral injection right eye, pupils pinpoint, alert and 
oriented x 3, speech clear
SKIN; Ecchymosis left fore-arm, right shoulder/clavicle

 
Pertinent Results:
___ 03:48AM BLOOD WBC-9.8 RBC-3.08* Hgb-10.7* Hct-31.4* 
MCV-102* MCH-34.7* MCHC-34.1 RDW-12.9 RDWSD-47.9* Plt ___
___ 04:15PM BLOOD Neuts-75.2* Lymphs-12.3* Monos-11.7 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-7.17* AbsLymp-1.17* 
AbsMono-1.12* AbsEos-0.00* AbsBaso-0.02
___ 03:48AM BLOOD ___ PTT-25.3 ___
___ 09:10AM BLOOD Glucose-169* UreaN-9 Creat-0.5 Na-136 
K-4.1 Cl-104 HCO3-23 AnGap-13
___ 03:48AM BLOOD Glucose-158* UreaN-10 Creat-0.5 Na-136 
K-4.1 Cl-99 HCO3-21* AnGap-20
___ 03:48AM BLOOD CK(CPK)-645*
___ 03:48AM BLOOD CK-MB-5 cTropnT-<0.01
___ 11:47PM BLOOD CK-MB-6 cTropnT-<0.01
___ 09:10AM BLOOD Calcium-8.3* Phos-2.1* Mg-2.3

___:  right shoulder:

There is a displaced fracture of the mid right clavicle with 1 
shaft width of inferior displacement of the distal portion and 
with bony overriding of 
approximately 4.3 cm.  There also be appears irregularity with 
concern for 
fracture at the base of the acromion, seen on the external 
rotation view, but not substantiated on the other views.  The 
right acromio-clavicular joint is not widened.  Multiple 
right-sided rib fractures are seen, including at least the 
posterior lateral right third, lateral fourth, fifth and likely 
sixth ribs. 

___:  CTA head/neck:

1. Unchanged posterior-lateral left thalamic parenchymal 
hemorrhage without 
evidence of underlying vascular malformation. 
2. Small amount of new right sylvian fissure subarachnoid and 
layering 
occipital horn left lateral ventricular hemorrhage. 
3. Patent intracranial and neck vasculature without occlusion or 
dissection. 
4. 4 mm superiorly projecting thrombosed and calcified left 
supra clinoid 
segment internal carotid artery aneurysm. 
5. 60-70% stenosis of the left carotid bulb by NASCET criteria. 
6. Fracture of the right orbit with intracranial extension and 
small foci of pneumo-cephalus, as described.  Additional 
fracture of the right zygoma and right maxillary sinus walls.  
The facial fractures are better characterized on dedicated CT of 
the face. 
7. Enlarging right scalp hematoma. 
8. Fractures involving the right mid clavicle, and the right 
lateral third, fourth, and fifth ribs, better characterized on 
dedicated CT of the chest. 
9. Partially visualized large right gleno-humeral joint effusion 
extending into sub-acromial space with internal heterogeneous 
hyper-density and scattered calcifications.  Findings may be 
related to chronic degeneration versus an acute process.  
Recommend clinical correlation. 

___:  ct of chest, abd. pelvis:

1.  Acute fractures of the third, fourth, fifth, and sixth right 
ribs 
posteriorly and laterally.  Fractures of the right clavicle and 
right scapula. 
  
2.  Compression fracture of T12 vertebral body, of indeterminate 
age.  Overall appears subacute, but cannot exclude an acute 
component. 
  
3.  No evidence of large hemorrhage. 
  
4.  Bladder is very distended, correlate with ability to 
voluntarily urinate. 

___:  right elbow x-ray:

Degenerative changes without definite acute fracture.

___:  left hand x-ray:

 .  Oblique nondisplaced distal radial fracture with 
intra-articular extension is likely acute/subacute in age.  
Clinical correlation for focal tenderness. 
2.  Mild soft tissue swelling of wrist. 
3.  Moderate to severe osteoarthritis involving the DIP joints, 
first CMC and triscaphe joint. 
4.  Diffuse osteopenia. 

___:  left wrist x-ray :

Unchanged alignment of a left distal radius fracture.

___:  MR cervical spine:

. Multilevel degenerative changes of the lumbar spine, as 
described, without MR evidence of ligamentous or soft tissue 
injury.  Please refer to dedicated CT of the cervical spine for 
the evaluation of osseous fractures. 
2. Multilevel neural foraminal stenosis greatest at left C3-C4, 
left C4-C5, and bilateral C5-C6, where there is severe neural 
foraminal stenosis. 
3. No evidence of cord compression or contusion. 

___:  MRI head:

  
1. Parenchymal hemorrhage at the posterior inferior left 
thalamus without 
evidence of underlying enhancing mass. Small amount of blood 
layering in the bilateral occipital horns and within the fourth 
ventricle. Small amount of right convexity subdural blood. Small 
right convexity subdural hematoma.  
These findings are relatively unchanged. 
2. Punctate focus of slow diffusion at the mid superior left 
thalamus without corresponding blood products which may 
represent an acute infarct. 
3. Background sequela chronic microangiopathy and small right 
frontal remote microbleeds. 
4. Facial fractures are not well seen on MRI and are better 
characterized on prior dedicated CT. 

  

  

  

 
Brief Hospital Course:
___ year old female who sustained a fall down 5 steps with head 
strike and unclear LOC
for unknown amount of time.  She was unable to recall why she 
fell. She activated her Life alert.  She was brought to an OSH 
where she was GCS ___.  She underwent a CT of the head which 
revealed a SAH/IPH. Cat scan imaging of the maxillary/face 
demonstrated multiple facial fractures: non-displaced right 
inferior orbital and maxillary sinus fracture without evidence 
of entrapment or intraorbital hemorrhage. She was given 
clindamycin and keppra at ___ and transferred to ___ for 
further
evaluation. 

Upon arrival to the hospital, the patient was admitted to the 
Trauma Intensive care unit for monitoring.  She was alert and 
oriented x 3. She was having ectopy with multiple runs of NSVT 
which improved with electrolytes repletion. Troponins were sent 
to rule out a cardiac contusion.  She was given additional 
intravenous fluids for a decreased urine output. On review of 
the imaging the patient was reported to have right sided ___ rib 
fractures, a right displaced clavicle fracture, a right scapula 
fracture and a sternal fracture. Her pain was controlled with 
oral analgesia. The patient was encouraged to use the incentive 
spirometer.    
 
The patient was transferred to the surgical floor on ___.  
Because of her multiple injuries, the Orthopedic, Neurosurgery, 
and Plastic surgery service were consulted.  No surgical 
intervention was indicated. The patient was placed on sinus 
precautions for the facial fractures and a sling was applied to 
support the right clavicle and scapular fracture.  Because of 
her orbital and maxillary sinus fracture, the Ophthalmology 
service was consulted.  Outpatient follow-up was recommended. 

During the remainder of the ___ hospital course, her vital 
signs remained stable and she was afebrile.  She was started on 
a regular diet. Her foley catheter was removed on ___ and she 
was voiding without difficulty.  Her hematocrit was stable at 31 
with a normal white blood cell count. In preparation for 
discharge, the patient was evaluated by physical and 
occupational therapy.  Recommendations were made for discharge 
to a rehabilitation facility to help the patient regain her 
strength and mobility.   

The patient was discharged on ___ in stable condition.  
Appointments for follow-up were made with the multiple services 
who were consulted in her care. 

Her aspirin is on hold until ___  

*****An incindental finding of a thrombosed left paraclinoid ICA 
aneurysm was identified on head CT.****

*****Punctate focus of slow diffusion at the mid superior left 
thalamus without corresponding blood products which may 
represent an acute infarct

    
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Atenolol 37.5 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Citalopram 20 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Thiamine 100 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Citalopram 20 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. PredniSONE 5 mg PO DAILY 
5. Thiamine 100 mg PO DAILY 
6. Acetaminophen 1000 mg PO Q6H:PRN Pain 
7. HydrALAzine 25 mg PO Q6H:PRN SBP > 140 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Insulin SC 
      Sliding Scale

Fingerstick Q6h
Insulin SC Sliding Scale using REG Insulin
10. Aspirin 81 mg PO ON HOLD 
ON HOLD, MAY RESUME ON ___. Metoprolol Tartrate 12.5 mg PO Q6H 
12. Atenolol 37.5 mg PO DAILY 
13. Lisinopril 20 mg PO DAILY 
14. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Trauma:  

lateral/ant walls R maxillary sinus fracture 
right zygomatic arch fracture 
sphenoid  
right orbital fracture  
right rib fractures ___  
displaced Right clavicle fracture  
right scapula fracture  
sternal fracture  
Compression def T12,indeterminate age  
left distal radius fracture  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital after a fall in which you 
sustained injuries to your face, ribs, scapula, clavicle, 
sternum, left radius fracture, and T12 compression deformity.  
You did not require any surgical intervention.  You were seen by 
physical therapy and recommendations were made for discharge to 
a rehabilitation facility to help you regain your strength and 
mobility.  You are being discharged with the following 
instructions:

 Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

  
 
Followup Instructions:
___